US07989444B2
Preparation 65: 1,1-dimethylethyl 7-hydroxy-6-methyl-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
Nitric acid (65%, 0.370 ml) was added dropwise with vigorous stirring to 1,1-dimethylethyl 7-hydroxy-6-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (600 mg) and silica gel (1.67 g) in DCM (5.7 ml) at −15° C. After 30 min a mixture of DCM/MeOH/conc.NH4OH: 10/3/1.5 was added and silica gel was filtered off. The solvent was evaporated under reduced pressure and the residue was purified on silica gel (ethyl acetate/petroleum ether: 15/85) obtaining the desired compound (470 mg, 67% yield).

reactant | Nitric acid | 0.370 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1,1-dimethylethyl 7-hydroxy-6-methyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 600 mg | OC1=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C16H23NO3
reactant | DCM MeOH | C(Cl)Cl.CO
reactant | NH4OH | [NH4+].[OH-]
solvent | DCM | 5.7 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 7-hydroxy-6-methyl-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 470 mg, 67% yield | OC1=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1[N+](=O)[O-])C | C16H22N2O5
